subckt sky130_fd_pr__nfet_01v8_esd (d g s b)
parameters mult=1
parameters l=1 w=1 nf=1 ad=0 as=0 pd=0 ps=0 nrd=0.14 / w nrs=0.14 / w sa=0 sb=0 sd=0 swx_nrds=89.1 * nf / w + 443.5 swx_vth=sw_vth0_sky130_fd_pr__nfet_01v8 + sw_mm_vth0_sky130_fd_pr__nfet_01v8 * mismatch_factor * mc_mm_switch * 0 / sqrt(l * w * mult) + sw_vth0_sky130_fd_pr__nfet_01v8_mc nshortesd_vth0_diff_0=-0.0084454 nshortesd_k2_diff_0=0.017628 nshortesd_vsat_diff_0=-4452.6 nshortesd_u0_diff_0=-0.0038175 nshortesd_ua_diff_0=3.4854e-11 nshortesd_ub_diff_0=-3.6155e-19 nshortesd_nfactor_diff_0=0.0043861
Msky130_fd_pr__nfet_01v8_esd (d g s b) m_nshortesd_model l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd nf=nf delvto=-0.027 + swx_vth * 2.6 + (0.2 * (-0.165 / l + 1))
@if l*$scale >= 1.6e-7 && l*$scale < 1.87e-7 && w*$scale >= 5.395e-6 && w*$scale < 0.0010355
    model m_nshortesd_model sp_bsim4v8      tnom=30  toxm=4.1482e-009 xj=1.5e-007 lln=1 lwn=1 wln=1 wwn=1 lint=1.2561e-008 - sw_polycd ll=0 lw=0 lwl=0 wint=1.1879846e-008 + sw_activecd wl=0 ww=0 wwl=0 xl=0 xw=0 mobmod=0 binunit=2 dwg=0 dwb=0 igcmod=0 igbmod=0 rgatemod=0 rbodymod=1 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=1 permod=1 geomod=0 rdsmod=0 tempmod=0 lintnoi=-1.0e-07 vfbsdoff=0 lambda=0 vtl=200000 lc=5e-009 xn=3 rnoia=0.577 rnoib=0.5164 tnoia=1.5 tnoib=3.5 epsrox=3.9 toxe=4.1482e-009 dtox=0 ndep=1.7e+017 nsd=1e+020 rshg=0.1 rsh=swx_nrds vth0=0.565 + nshortesd_vth0_diff_0 k1=0.50824 k2=-0.036074 + nshortesd_k2_diff_0 k3=0 dvt0=0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600 dvt2w=0 w0=0 k3b=0 phin=0 lpe0=8.8387e-008 lpeb=-7.1972e-008 vbm=-3 dvtp0=0 dvtp1=0 vsat=163960 + nshortesd_vsat_diff_0 ua=-1.244e-009 + nshortesd_ua_diff_0 ub=1.6282e-018 + nshortesd_ub_diff_0 uc=1.9958e-011 rdsw=174.5 prwb=-0.17995 prwg=0.011 wr=1 u0=0.028432 + nshortesd_u0_diff_0 a0=1.5 keta=0.0873 a1=0 a2=0.42385546 ags=0.4092 b0=0 b1=0 eu=1.67 rdswmin=0 rdw=0 rdwmin=0 rsw=0 rswmin=0 voff=-0.1848 nfactor=2 + nshortesd_nfactor_diff_0 up=0.0 ud=0.0 lp=1.0 tvfbsdoff=0.0 tvoff=0 cit=0 cdsc=0 cdscb=0 cdscd=0 eta0=0 etab=0.001 dsub=0.1 voffl=5.8197729e-009 minv=0 pclm=0.17122 pdiblc1=0.10049528 pdiblc2=0.020103 pdiblcb=-1 drout=0.48621 pscbe1=3.6928e+008 pscbe2=2.2e-006 pvag=0 delta=0.01184 alpha0=1.414e-006 alpha1=1.4744 beta0=17.6 fprout=0 pdits=3.041136e-013 pditsl=0 pditsd=0 agidl=0 bgidl=2.3e+009 cgidl=0.5 egidl=0.8 aigbacc=1 bigbacc=0 cigbacc=0 nigbacc=0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0 aigc=0.43 bigc=0.054 cigc=0.075 nigc=0 aigsd=0.43 bigsd=0.054 cigsd=0.075 dlcig=0 poxedge=1 pigcd=1 ntox=1 toxref=4.1482e-009 kt1=-0.29744 kt2=-0.019143 at=79266 ute=-1.6806 ua1=5.504e-010 ub1=2.7351e-019 uc1=1.6706e-010 kt1l=0 prt=0 xrcrg1=12 xrcrg2=1 rbpb=50 rbpd=50 rbps=50 rbdb=50 rbsb=50 gbmin=1e-012 noia=2.5e+42 noib=0.0 noic=0.0 em=4.1000000E+07 af=1 ef=0.84 kf=0 ntnoi=1 dmcg=0 dmcgt=0 dmdg=0 xgl=0 ngcon=1 diomod=1 njs=1.2928 jss=0.0027500000000000003 jsws=6e-10 xtis=2 bvs=11.7 xjbvs=1 ijthsrev=0.1 ijthsfwd=0.1 tpb=0.0012287 tpbsw=0 tpbswg=0 tcj=0.000792 tcjsw=1e-005 tcjswg=0 cgdo=3.2e-010 * 0.9842 / sw_func_tox_lv_ratio cgso=3.2e-010 * 0.9842 / sw_func_tox_lv_ratio cgbo=1e-013 capmod=2 xpart=0 cgsl=0 cgdl=0 cf=1.4067e-012 clc=1e-007 cle=0.6 dlc=1.8739e-008 - 0.61491e-9 - sw_polycd dwc=sw_activecd vfbcv=-1 acde=0.4 moin=6.9 noff=3.621 voffcv=-0.1372 ngate=1e+023 lwc=0 llc=0 lwlc=0 wlc=0 wwc=0 wwlc=0 ckappas=0.6 cjs=sw_nsd_pw_cj mjs=0.44 pbs=0.729 cjsws=3.6001e-011 * sw_func_nsd_pw_cj mjsws=0.0009 pbsws=0.2 cjswgs=2.3347e-010 * sw_func_nsd_pw_cj mjswgs=0.8000 pbswgs=0.95578 type=1
@end

ends // sky130_fd_pr__nfet_01v8_esd
